US08309718B2
Step 3. 2-{1-[(benzyloxy)carbonyl]-3-hydroxypyrrolidin-3-yl}-2-methylpropanoic Acid
Benzyl 3-(1,1-dimethyl-2-oxoethyl)-3-hydroxypyrrolidine-1-carboxylate (12.70 g, 0.04359 mol) was dissolved in acetone (179.5 mL, 2.444 mol) and cooled to 15° C. and 1.0 M of hydrogen chloride in water (65.39 mL, 0.06539 mol) was added dropwise. After addition of the HCl was complete, a solution of potassium permanganate (11.0 g, 0.0697 mol) in acetone (493.6 mL, 6.722 mol) was added dropwise. The reaction mixture was stirred at room temperature for 6 h, filtered and the filter cake was washed with acetone. The filtrate was evaporated, in vacuo, diluted with methylene chloride, dried, filtered and the solvent was evaporated, in vacuo, to provide a crude product which was used directly in next step. LCMS (M+H) 308.2.

reactant | Benzyl 3-(1,1-dimethyl-2-oxoethyl)-3-hydroxypyrrolidine-1-carboxylate | 0.04359 mol, 12.70 g | CC(C=O)(C)C1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C16H21NO4
reactant | acetone | 2.444 mol, 179.5 mL | CC(=O)C | C3H6O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | water | 0.06539 mol, 65.39 mL | O | H2O
reactant | potassium permanganate | 0.0697 mol, 11.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetone | 6.722 mol, 493.6 mL | CC(=O)C | C3H6O
product | 2-{1-[(benzyloxy)carbonyl]-3-hydroxypyrrolidin-3-yl}-2-methylpropanoic Acid | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)(O)C(C(=O)O)(C)C | C16H21NO5
